US07786132B2
(i) 1-(3-(4-methoxyphenyl)thiophen-2-yl)ethanone
A flask was charged with 1-(3-bromothiophen-2-yl)ethanone (1.00 g, 4.88 mmol), 4-methoxyphenylboronic acid (0.740 g, 4.88 mmol), tetrakis(triphenylphosphine)palladium(0) (0.17 g, 0.15 mmol), dimethoxyethane (50 mL), and 2 N aqueous Na2CO3 (7.3 mL) and then warmed to 80° C. for 7 h. At that time the reaction mixture was poured into H20 and extracted with EtOAc. The organic phase was separated and washed with brine, dried over Na2SO4 and concentrated in vacuo. The resulting residue was purified via flash chromatography, eluting with 5-15% EtOAc/hexanes to afford the product (0.50 g, 2.2 mmol). MS (M+H)+ 233.

reactant | 1-(3-bromothiophen-2-yl)ethanone | 4.88 mmol, 1.00 g | BrC1=C(SC=C1)C(C)=O | C6H5BrOS
reactant | 4-methoxyphenylboronic acid | 4.88 mmol, 0.740 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 2 N, 7.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.15 mmol, 0.17 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | 50 mL | C(OC)COC | C4H10O2
product | 1-(3-(4-methoxyphenyl)thiophen-2-yl)ethanone | 2.2 mmol, 0.50 g | COC1=CC=C(C=C1)C1=C(SC=C1)C(C)=O | C13H12O2S
